US20010011133A1
A solution of ethyl 5-(2-dimethylaminoethyl)-3-oxo-1,2,3,5-tetrahydropyrido [1,2-a]benzimidazole-4-carboxylate (1.0 g, 3 mmol) in ethanol (40 mL) and 10 M aqueous NaOH (20 ml) is heated at reflux for 2 h. The reaction mixture is cooled and the layers separated. The upper layer is diluted with ether (100 mL), washed with water (20 mL), dried, and concentrated to yield 5-(2-dimethylaminoethyl)-3-oxo-1,2,3,5-tetrahydropyrido [1,2-a]benzimidazole.

reactant | ethyl 5-(2-dimethylaminoethyl)-3-oxo-1,2,3,5-tetrahydropyrido [1,2-a]benzimidazole-4-carboxylate | 3 mmol, 1.0 g | CN(CCN1C=2N(C3=C1C=CC=C3)CCC(C2C(=O)OCC)=O)C | C18H23N3O3
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | NaOH | 10 M, 20 ml | [OH-].[Na+]
product | 5-(2-dimethylaminoethyl)-3-oxo-1,2,3,5-tetrahydropyrido [1,2-a]benzimidazole | CN(CCN1C=2N(C3=C1C=CC=C3)CCC(C2)=O)C | C15H19N3O
